US06962935B2
Part A. Preparation of 2-(trifluoromethyl)phenylboronic acid
To a solution of 58.8 g (0.261 mol) of 1-bromo-2-(trifluoromethyl)benzene in 250 mL of THF under Ar was added 110 mL (0.275 mol) of 2.5M n-butyllithium in hexane over 35 minutes, keeping the temperature between 0-5° C. The reaction mixture was allowed to warm to 10° C. Triisopropylborate (95 mL, 0.313 mol) was added, keeping the temperature below 35° C. After 1 hour, the reaction mixture was cooled, 1N HCl (425 mL) was added, and the mixture was stirred overnight. The mixture was extracted with 100 mL of ether three times, and the combined organic extracts were extracted with 100 mL of 1N NaOH three times. The aqueous extracts were acidified to pH 1 with 6N HCl, and then extracted with 100 mL ether three times. The combined ether extracts were dried over MgSO4, and the solvents evaporated in vacuo to give 46.1 g (93%) of the desired compound as a light yellow oil. 1H NMR (CDCl3) δ: 7.77 (d, 1H); 7.72 (d, 1H); 7.56 (m, 2H); 4.87 (br s, 2H).

reactant | 1-bromo-2-(trifluoromethyl)benzene | 0.261 mol, 58.8 g | BrC1=C(C=CC=C1)C(F)(F)F | C7H4BrF3
reactant | n-butyllithium | 0.275 mol, 2.5M, 110 mL | C(CCC)[Li]
reactant | Triisopropylborate | 0.313 mol, 95 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 1N, 425 mL | Cl | ClH
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2-(trifluoromethyl)phenylboronic acid | 46.1 g, 93% | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
